US03997530
Preparation of 1-cyclopropyl-3-(2-pyridyl)-1,3-propanedione
A stirred mixture of 24 g. of ethyl picolinate, 18 g. of cyclopropylmethyl ketone and 11 g. of sodium methoxide in 250 ml. of benzene is heated under reflux for 6 hours. The mixture is diluted with 200 ml. of water and the water phase is removed. The aqueous solution is made weakly acidic with dilute hydrochloric acid. A solid precipitates and is collected by filtration. Recrystallization from cyclohexane provided colorless crystals, melting point 77°-78° C.

reactant | ethyl picolinate | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
reactant | cyclopropylmethyl ketone | C1(CC1)C(=O)C | C5H8O
reactant | sodium methoxide | C[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-cyclopropyl-3-(2-pyridyl)-1,3-propanedione | C1(CC1)C(CC(=O)C1=NC=CC=C1)=O | C11H11NO2
